US08669266B2
(i) 6-Chloro-4-hydroxy-7-methyl-quinoline-2-carboxylic acid ethyl ester
To a solution of 3.5 g of 4-chloro-3-methylaniline in 30 ml of methanol, 4.2 g of but-2-ynedioic acid diethyl ester were added dropwise over 30 min at 0° C. and stirred for 3 h at RT. Then, the solvents were removed under reduced pressure and the residue was dissolved in 70 ml of Dowtherm® and heated to 250° C. for 2 h. Then, the reaction mixture was allowed to cool to RT and 300 ml of n-heptane were added to precipitate the crude product, which was collected by filtration. The title compound was purified by chromatography on silica gel eluting with a gradient of n-heptane/ethyl acetate. The fractions containing the product were combined and the solvent evaporated under reduced pressure. Yield: 1.1 g.

reactant | 4-chloro-3-methylaniline | 3.5 g | ClC1=C(C=C(N)C=C1)C | C7H8ClN
reactant | but-2-ynedioic acid diethyl ester | 4.2 g | C(C)OC(C#CC(=O)OCC)=O | C8H10O4
solvent | methanol | 30 ml | CO | CH4O
product | 6-Chloro-4-hydroxy-7-methyl-quinoline-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC2=CC(=C(C=C2C(=C1)O)Cl)C | C13H12ClNO3
